US06908935B2
Step 3) ((1R)-1-Phenylethyl){[4-methoxy-3-(1-methylindol-5-yl)phenyl]methyl}amine:
The title compound was prepared from 3-(1-methylindol-5-yl)-4-methoxybenzaldehyde and (R)-α-methylbenzylamine according to general procedure C.

reactant | 3-(1-methylindol-5-yl)-4-methoxybenzaldehyde | CN1C=CC2=CC(=CC=C12)C=1C=C(C=O)C=CC1OC | C17H15NO2
reactant | (R)-α-methylbenzylamine | C[C@H](C1=CC=CC=C1)N | C8H11N
product | ((1R)-1-Phenylethyl){[4-methoxy-3-(1-methylindol-5-yl)phenyl]methyl}amine | C1(=CC=CC=C1)[C@@H](C)NCC1=CC(=C(C=C1)OC)C=1C=C2C=CN(C2=CC1)C | C25H26N2O
